* Z:\mnt\design.r\spice\examples\3795.asc
V1 IN 0 36
R2 IN N003 499K
R3 N003 N004 115K
C2 N009 0 10n
C3 N016 N019 6.8n
R4 N017 0 31.6K
C4 N018 0 .05µ
C5 N012 0 4.7µ
M§Q1 N002 N005 N008 N008 BSH114
R5 N008 0 15m
R6 OUT N010 620m
M§Q2 N013 N011 N010 N010 IRF9640
D1 N013 0 LXHL-BW02 N=25
R7 OUT N006 1Meg
R8 N006 0 13.3K
C6 OUT 0 2.2µ x4
L1 N001 N002 22µ
D2 N002 OUT PDS5100
R9 N019 0 10K
XU1 OUT N010 N011 0 N014 N007 N006 N016 N007 N007 N018 N017 N015 N007 NC_01 NC_02 MP_03 N008 N005 N012 MP_04 MP_05 IN N003 N004 N001 IN N009 LT3795
C1 N015 0 47n
C7 N014 0 .1µ
R1 N004 0 12.4K
R11 IN N001 15m
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3795.sub
.backanno
.end
